US06897036B2
A solution of Compound 5, N-benzylacridan (10 g, 37 mmol) in 200 mL of dry THF under inert atmosphere was cooled to 78° C. and 25.0 mL of 2.5 M n-butyllithium in hexanes (37.5 mmol) was added dropwise over 15 min. The solution was stirred at −78° C. for 1 h and then warmed to room temperature over 45 min. The reaction mixture was again cooled to −78° C. and ca. 200 g of crushed dry ice was added causing a precipitate to form. The reaction was allowed to slowly warm to room temperature and stirring under argon was continued over night. The mixture was evaporated, the solid was then suspended in 300 mL of water and acidified to pH 3 with 12N HCl. The solid was collected, washed with water, dissolved in CH2Cl2, dried over sodium sulfate and concentrated to afford 11 g of N-benzyl-acridan-9-carboxylic acid. 1H NMR: (CDCl3) ∂ 4.99 (s, 1H), 5.12 (s, 2H), 6.72-6.75 (d, 2H), 6.88-6.94 (t, 2H), 7.10-7.17 (m, 4H), 7.22-7.32 (m, 5H).

reactant | N-benzylacridan | 37 mmol, 10 g | C(C1=CC=CC=C1)N1C=2C=CC=CC2CC2=CC=CC=C12 | C20H17N
reactant | n-butyllithium | 2.5 M, 25.0 mL | C(CCC)[Li]
reactant | dry ice | ca. 200 g | C(=O)=O | CO2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | N-benzyl-acridan-9-carboxylic acid | 11 g | C(C1=CC=CC=C1)N1C=2C=CC=CC2C(C2=CC=CC=C12)C(=O)O | C21H17NO2
